Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ woman with a history of HTN & a seizure
disorder (on Keppra) who presents with an episode of
palpitations. When her symptoms started, she had ~1 minute of
pressure in her throat, but that resolved. She also had a few
minutes of lightheadedness when the palpitations started, but
that also resolved. No chest pain, shortness of breath, nausea,
vomiting, or recent illness. She has no history of atrial
fibrillation and is not on blood thinners. 

- In the ED, initial VS were: 98.6 140 140/80 16 98% RA 
- Exam notable for: Irregularly irregular rhythm, rate 148-155.
CTAB. NTND abd. Trace edema of the ___ bilaterally. AAOx3.
- Labs showed:  trop <0.01
- Imaging showed: CXR with no focal consolidation. EKG with Afib
with HR 110s, no ST changes 
- Patient received: 
 ___ 00:46 IVF  NS   
___ 00:46 IV BOLUS Diltiazem 10 mg  
___ 00:54 PO/NG Diltiazem 30 mg  
- Transfer VS were:  66 124/53 16 97% RA 

On arrival to the floor, patient feels well. She has no current
chest pain, shortness of breath, or palpitations. She was able 
to
walk to the bathroom, and had no dizziness or lightheadedness
when doing so. 
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 

 
Past Medical History:
- HTN
- PROXIMAL HUMERUS FRACTURE   
- DISTAL RADIUS FRACTURE 
- Seizure disorder, on keppra
 
 
Social History:
___
Family History:
 No family history of Afib. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS:  98.2 PO 129 / 75 R Sitting 65 16 96 Ra 
GENERAL: sitting comfortably in bed, NAD 
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: regular rate & rhythm (no longer in afib), III/VI 
systolic
murmur, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
 

Discharge Exam: 
VS: 98.5
PO 131 / 61
L Lying 56 16 95 Ra 

GENERAL: Well appearing female walking around her room in no 
apparent pain o distress 
HEENT: EOMI, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD appreciated on exam  
HEART: regular rate & rhythm (no longer in afib), III/VI 
systolic
murmur in the entire precordium, no gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, moving all 4 extremities with purpose 
 
Pertinent Results:
Admission Labs:

___ 03:26PM   WBC-5.4 RBC-3.49* HGB-10.9* HCT-32.4* MCV-93 
MCH-31.2 MCHC-33.6 RDW-13.2 RDWSD-44.5
___ 03:26PM   PLT COUNT-214
___ 07:10AM   GLUCOSE-100 UREA N-20 CREAT-0.7 SODIUM-144 
POTASSIUM-4.1 CHLORIDE-109* TOTAL CO2-21* ANION GAP-14
___ 07:10AM   cTropnT-<0.01
___ 07:10AM   CALCIUM-8.5 PHOSPHATE-3.7 MAGNESIUM-1.8
___ 07:10AM   WBC-6.2 RBC-3.43* HGB-10.7* HCT-32.1* MCV-94 
MCH-31.2 MCHC-33.3 RDW-13.2 RDWSD-44.7
___ 07:10AM   PLT COUNT-208
___ 12:52AM   LACTATE-1.7
___ 12:40AM   GLUCOSE-152* UREA N-21* CREAT-0.8 SODIUM-145 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-22 ANION GAP-16
___ 12:40AM   estGFR-Using this
___ 12:40AM   cTropnT-<0.01
___ 12:40AM   CALCIUM-9.6 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 12:40AM   TSH-2.1
___ 12:40AM   WBC-8.4 RBC-4.06 HGB-12.7 HCT-38.2 MCV-94 
MCH-31.3 MCHC-33.2 RDW-13.1 RDWSD-44.3
___ 12:40AM   NEUTS-54.2 ___ MONOS-9.7 EOS-0.8* 
BASOS-0.5 IM ___ AbsNeut-4.55 AbsLymp-2.90 AbsMono-0.81* 
AbsEos-0.07 AbsBaso-0.04
___ 12:40AM   PLT COUNT-243
___ 12:40AM   ___ PTT-34.4 ___
___ 12:35AM   VoidSpec-SPECIMEN V
___ 12:35AM   WBC-9.2# RBC-3.99 HGB-12.4 HCT-37.5 MCV-94 
MCH-31.1 MCHC-33.1 RDW-13.4 RDWSD-45.5
___ 12:35AM   NEUTS-51.9 ___ MONOS-10.2 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-4.77 AbsLymp-3.36 AbsMono-0.94* 
AbsEos-0.06 AbsBaso-0.04
___ 12:35AM   PLT COUNT-261

Imaging:

___ CXR 

IMPRESSION: 

1. No focal consolidation to suggest pneumonia.  Emphysema or 
small airway 
obstruction. 
2. Top-normal heart size. 
3. Right hilar enlargement probably unchanged since ___.  
Conventional 
radiographs would be helpful in assessment. 

ECHO ___

The left atrium is elongated. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Normal pulmonary artery 
systolic pressure.

Microbiology:

___ 12:40 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

Discharge Labs:

___ 09:19AM BLOOD WBC-6.2 RBC-3.68* Hgb-11.3 Hct-34.1 
MCV-93 MCH-30.7 MCHC-33.1 RDW-13.1 RDWSD-43.6 Plt ___
___ 09:19AM BLOOD Glucose-170* UreaN-13 Creat-0.7 Na-144 
K-3.8 Cl-105 HCO3-21* AnGap-18
___ 09:19AM BLOOD Calcium-9.3 Phos-3.3 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of HTN & a seizure 
disorder (on Keppra) who presents with an episode of 
palpitations, found to be in new Afib. On admission the patient 
was reporting a severe palpitation sensation in her neck and 
throat. She presented to the ED by ambulance and required 10mg 
IV dilt in the ED for a HR in the 140s, to which she responded. 
She also had 30mg PO dilt thereafter. Her heart rate decreased 
and she remained in sinus rhythm for the remainder of her 
hospital stay. She was maintained on 30mg TID diltiazam PO which 
was converted to 120mg once daily on the day of discharge. She 
was also initiated on apixaban 2.5mg BID for anticoagulation, 
however it was not covered by her insurance on discharge. She 
was initiated with a plan to start Coumadin with an INR check on 
___ at her PCP ___. 

# ATRIAL FIBRILLATION: This is a new diagnosis, and patient was 
symptomatic when it occurred. She was rate controlled with IV 
then PO Diltiazem, and palpitations have resolved. She is now in 
normal sinus rhythm. Her CHADS2VASC score is 4 (age, female, 
HTN). TTE normal see below impression. TSH normal 2.1, Troponin 
negative. She was rate controlled with dilt 30mg TID and then 
converted to 120mg XR dilt. While hospitalized, she was started 
on Apixaban for anticoagulation however insurance would not 
cover it on discharge. She was subsequently started on Coumadin 
(to take 2.5 mg daily until she followed with her PCP for an INR 
check on ___. 

CHRONIC ISSUES: 
=============== 
# SEIZURE DISORDER: Patient has a seizure history with no 
reported seizures recently. Patient's neurologic exam normal on 
admission, and she had no evidence of seizure activity during 
her hospital stay. She was continued on her home LevETIRAcetam 
500 mg PO BID.

# HTN: She has a history of essential htn and was on amLODIPine 
2.5 mg prior to admission. We discontinued her amlodipine since 
we are starting her on Diltiazem 120mg long acting once daily. 
We continued her home Lisinopril 20 mg PO DAILY. Her BP was well 
controlled on this hospital stay. 

# NEUROPATHIC PAIN: We continued her home Gabapentin 100 mg PO 
BID

# HLD: We continued her home Rosuvastatin Calcium 40 mg PO QPM 

# OSTEOPOROSIS: She should continue her Alendronate Sodium 70 mg 
PO QMON 

# OSTEOARTHRITIS: Discuss with PCP when to resume Nabumetone 750 
mg PO BID CORE 

Transitional Issues:
=====================
[] Anticoagulation: discharged on 2.5mg warfarin PO daily from 
___, will need INR check at PCP visit on ___ with goal 
INR ___ for non-valvular A fib. 
[] Patient will need cardiology follow-up (scheduled for 
___
[] Normal TTE on this admission: 
"The left atrium is elongated. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Normal pulmonary artery 
systolic pressure." 
[]Discuss with PCP when to resume Nabumetone 750 mg PO BID CORE 
[]MEDICATIONS STOPPED: Amlodipine 
[]NEW MEDICATIONS:
Warfarin 2. 5mg once daily for ___, with plan for 
INR check at ___ office ___ 
Diltiazem 120mg XR once daily 
#CODE: Full (presumed) 
#CONTACT: ___, daughter Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. ValACYclovir 500 mg PO Q8H 
2. Meclizine 12.5 mg PO TID 
3. TraZODone 50 mg PO QHS:PRN insomnia 
4. Rosuvastatin Calcium 40 mg PO QPM 
5. LevETIRAcetam 500 mg PO BID 
6. amLODIPine 2.5 mg PO DAILY 
7. Nabumetone 750 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Alendronate Sodium 70 mg PO QMON 
10. Lisinopril 20 mg PO DAILY 
11. Gabapentin 100 mg PO TID 

 
Discharge Medications:
1.  Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl [Cardizem] 120 mg 1 tablet(s) by mouth Once 
daily Disp #*30 Tablet Refills:*2 
2.  Warfarin 2.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*2 
3.  Alendronate Sodium 70 mg PO QMON  
4.  Gabapentin 100 mg PO TID  
5.  LevETIRAcetam 500 mg PO BID  
6.  Lisinopril 20 mg PO DAILY  
7.  Meclizine 12.5 mg PO TID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Rosuvastatin Calcium 40 mg PO QPM  
10.  TraZODone 50 mg PO QHS:PRN insomnia  
11.  ValACYclovir 500 mg PO Q8H  
12. HELD- Nabumetone 750 mg PO BID  This medication was held. Do 
not restart Nabumetone until you see your pimary care doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
#Atrial Fibrillation with a rapid ventricular response 

Secondary Diagnoses
===================
#Seizure disorder
#HTN
#HLD
#Osteoporosis
#Osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was pleasure taking care of you on this hospital stay at 
___.

What happened on this admission:
- You were admitted to the hospital for an irregular heart 
rhythm known as atrial fibrillation
- You required a medication to slow your heart rate down
- You also had an ultrasound of your hear to evaluate your 
murmur, this ultrasound showed that you had a normal heart. The 
valves appeared to be working correctly and you had no signs of 
heart failure

What you need to do once you leave the hospital:
- It is important that you continue to take your new medication 
the Diltiazem 120mg once daily
- It is also important that you take your new blood thinning 
medication, Coumadin
- It is very important that you see your cardiologist at New 
___.

[]MEDICATIONS STOPPED: Amlodipine 
[]NEW MEDICATIONS:
Warfarin 2. 5mg once daily from ___, ask your PCP 
what to take on ___
Diltiazem 120mg XR once daily 

We wish you the best, 

Your ___ Care Team 

 

 
Followup Instructions:
___